US05849945
Preparation process of 8 -acetylamino-6-fluoro-5-methyl-1-tetralone
In acetone, 5.0 g of 5-acetylamino-7-fluoro-8 -methyl-1,2,3,4-tetrahydronaphthalene were suspended, followed by the addition of 2.3 g of sodium bicarbonate. To the resulting mixture, 13.9 g of potassium permanganate were added in portions over 3.5 hours at an internal temperature of 10° to 15° C. and the mixture was stirred at room temperature for one hour. To the resulting mixture, 0.8 g of potassium permanganate was added further, followed by stirring for 1.5 hours. After a 5% aqueous solution of sodium hydrogensulfite was added in a small amount and the complete disappearance of potassium permanganate was confirmed, manganese dioxide so precipitated was filtered out. The manganese dioxide was washed thoroughly with chloroform and the filtrate was removed under reduced pressure. The residue so obtained was dissolved in chloroform. The resulting solution was washed three times with a saturated aqueous solution of sodium bicarbonate and dried over potassium carbonate. The solvent was evaporated under reduced pressure. The residue so obtained was recrystallized from chloroform-diethyl ether, whereby 2.6 g of the title compound was obtained.

reactant | 5-acetylamino-7-fluoro-8 -methyl-1,2,3,4-tetrahydronaphthalene | 5.0 g | C(C)(=O)NC1=C2CCCCC2=C(C(=C1)F)C | C13H16FNO
reactant | sodium bicarbonate | 2.3 g | C([O-])(O)=O.[Na+]
reactant | potassium permanganate | 13.9 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 0.8 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8 -acetylamino-6-fluoro-5-methyl-1-tetralone | 2.6 g | C(C)(=O)NC=1C=C(C(=C2CCCC(C12)=O)C)F | C13H14FNO2
